US04194008
Reaction of 2,6-diethyl-phenyl isothiocyanate with isopropylamine in accordance with the process described above gives N-(2,6-diethyl-phenyl)-N'-isopropyl-thiourea of melting point: 108° to 110°.

reactant | 2,6-diethyl-phenyl isothiocyanate | C(C)C1=C(C(=CC=C1)CC)N=C=S | C11H13NS
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N-(2,6-diethyl-phenyl)-N'-isopropyl-thiourea | C(C)C1=C(C(=CC=C1)CC)NC(=S)NC(C)C | C14H22N2S
